US08445505B2
The 5-(2,5-dimethyl-4-nitrophenyl)oxazole obtained in the last step was dissolved in methanol (10 mL). To the solution was added Pd/C (10%). The reaction mixture was degassed and purged with H2 for several times and then stirred under 1 atm. hydrogen gas overnight. The mixture was filtered and concentrated to afford 2,5-dimethyl-4-(oxazol-5-yl)aniline as a white solid. ESMS m/z 189 (M+H+).

reactant | 5-(2,5-dimethyl-4-nitrophenyl)oxazole | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C1=CN=CO1 | C11H10N2O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2,5-dimethyl-4-(oxazol-5-yl)aniline | CC1=C(N)C=C(C(=C1)C1=CN=CO1)C | C11H12N2O
